US05977123
A solution of 14.4 g (45.3 mmol) of methyl 2-[2-(tetrahydropyran-2-yloxy)-phenyl]-3-cyanomethoxy-acrylate in 50 ml of methanol is admixed with 5 g of acidic ion exchanger and stirred at 20° C. for 3 hours. The ion exchanger is filtered off and the filtrate is concentrated under reduced pressure. The residue is chromatographed over silica gel using dichloromethane/ethyl acetate (10:1). 7.8 g (74% of theory) of methyl 2-(2-hydroxyphenyl)-3-cyanomethoxy-acrylate are obtained.

reactant | methyl 2-[2-(tetrahydropyran-2-yloxy)-phenyl]-3-cyanomethoxy-acrylate | 45.3 mmol, 14.4 g | O1C(CCCC1)OC1=C(C=CC=C1)C(C(=O)OC)=COCC#N | C17H19NO5
solvent | methanol | 50 ml | CO | CH4O
product | methyl 2-(2-hydroxyphenyl)-3-cyanomethoxy-acrylate | 7.8 g, 74% | OC1=C(C=CC=C1)C(C(=O)OC)=COCC#N | C12H11NO4
